US06855719B1
4-Sulphamoylphenylguanidine
A mixture of sulphanilamide (20 g, 0.166 mol), benzoyl cyanamide (34 g, 0.33 mmol) in ethanol (60 ml) and concentrated hydrochloric acid (11 ml) was heated on a steam bath until the solvent had evaporated. Water was added and the mixture heated at reflux for 5 minutes. Sodium hydroxide (14.4 g) was added and the mixture heated at reflux. The mixture was allowed to cool and was adjusted to pH2 with hydrochloric acid and the precipitated solid removed by filtration. The filtrate was neutralised and the solvent removed by evaporation. The residue was recrystallized from water to give crude title product. m/z: 215 [MH]+.

reactant | sulphanilamide | 0.166 mol, 20 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | benzoyl cyanamide | 0.33 mmol, 34 g | C(C1=CC=CC=C1)(=O)NC#N | C8H6N2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 11 ml | Cl | ClH
product | 4-Sulphamoylphenylguanidine | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=N)N | C7H10N4O2S
